US08247431B2
Step 7: Preparation of 6-amino-5-methyl-2-trifluoromethyl-quinoline-7-carboxylic acid
A solution of 5-methyl-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid (1.40 g) in ethanol (100 mL) is hydrogenated at atmosphere pressure and ambient temperature in the presence of Raney-nickel catalyst. TLC analysis after 12 h shows reaction completion. The mixture is filtered over hyflo and the filtrate concentrated in vacuum. The residue is recrystallized from hexane/ethyl acetate to give 0.90 g of the title compound of the formula

reactant | 5-methyl-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid | 1.40 g | CC1=C2C=CC(=NC2=CC(=C1[N+](=O)[O-])C(=O)O)C(F)(F)F | C12H7F3N2O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Raney-nickel | [Ni] | Ni
product | 6-amino-5-methyl-2-trifluoromethyl-quinoline-7-carboxylic acid | 0.90 g | NC=1C(=C2C=CC(=NC2=CC1C(=O)O)C(F)(F)F)C | C12H9F3N2O2
